US08530648B2
a) (5-methyl-2-(2H-1,2,3-triazol-2-yl)phenyl)methanol
The title compound was synthesized in analogy to the procedure described for building block K11 from (2-iodo-5-methylphenyl)methanol [220991-50-4] and 1H-1,2,3-triazole.

reactant | (2-iodo-5-methylphenyl)methanol | IC1=C(C=C(C=C1)C)CO | C8H9IO
reactant | 1H-1,2,3-triazole | N1N=NC=C1 | C2H3N3
product | (5-methyl-2-(2H-1,2,3-triazol-2-yl)phenyl)methanol | CC=1C=CC(=C(C1)CO)N1N=CC=N1 | C10H11N3O
